US05843951
Preparation of 4H-3-amino-2,9-dihydro-9-ethyl-2-methyl-dipyrazolo[1,5-a:3',4'-d]pyrimidin-4-one
Triethylamine (1.44 g) and methylhydrazine (1.44 g) were added to a solution of 3.25 g of 4-ethyl-5-methanesulfinyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carbonitrile in 60 ml of ethanol. The mixture was stirred at room temperature for 10 minutes and then stirred at 100° C. for 20 minutes. The reaction mixture was ice-cooled and the crystals precipitated were collected by filtration and sequentially washed with ethanol, methanol and diethyl ether to provide 1.2 g of the title compound as colorless crystals. The structure and melting point of the compound obtained are shown in Table 1.

reactant | Triethylamine | 1.44 g | C(C)N(CC)CC | C6H15N
reactant | methylhydrazine | 1.44 g | CNN | CH6N2
reactant | 4-ethyl-5-methanesulfinyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carbonitrile | 3.25 g | C(C)N1C=2N(C(C(=C1S(=O)C)C#N)=O)N=CC2 | C10H10N4O2S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-amino-2,9-dihydro-9-ethyl-2-methyl-dipyrazolo[1,5-a:3',4'-d]pyrimidin-4-one | 1.2 g | NC=1N(N=C2N(C=3N(C(C21)=O)N=CC3)CC)C | C10H12N6O
